US08008497B2
6-(2-Hydroxy-4-methoxymethoxyphenyl)-5-hydroxymethyl-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 1-(6))
Lithium aluminum hydride (167 mg, 4.40 mmol) was suspended in anhydrous tetrahydrofuran (3 mL). A solution of 8-methoxymethoxy-2,2,4-trimethyl-1,2-dihydro-6-oxa-1-azachrysen-5-one (Reference Compound No. 1-(5), 744.1 mg, 2.12 mmol) in anhydrous tetrahydrofuran (10 mL) was added dropwise to the suspension at 0° C., the reaction mixture was stirred at the same temperature for 30 minutes. Ethyl acetate (2 mL) and water (1 mL) were added to the reaction mixture successively, and then ethyl acetate (150 mL) was added thereto. 1N aqueous HCl solution (6 mL) was added, the mixture was washed with water (100 mL, twice) and saturated brine (50 mL) successively, and then dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give the titled reference compound (750.6 mg) as a pale yellow amorphous product. (Quantitative)

reactant | Lithium aluminum hydride | 4.40 mmol, 167 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 8-methoxymethoxy-2,2,4-trimethyl-1,2-dihydro-6-oxa-1-azachrysen-5-one | COCOC=1C=C2OC(C3=C4C(=CC(NC4=CC=C3C2=CC1)(C)C)C)=O | C21H21NO4
reactant | HCl | 1N, 6 mL | Cl | ClH
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 1 mL | O | H2O
solvent | Ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | 6-(2-Hydroxy-4-methoxymethoxyphenyl)-5-hydroxymethyl-2,2,4-trimethyl-1,2-dihydroquinoline | 750.6 mg | OC1=C(C=CC(=C1)OCOC)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)CO | C21H25NO4
